US09056874B2
(±)-2-(2,2,2-Trifluoro-1-((2-hydroxyethyl)amino)-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of (±)-tert-butyl 4-(1-(5-cyano-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-((2-hydroxyethyl)amino)ethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (20 mg, 0.037 mmol) in MeOH (0.368 mL) at room temperature under nitrogen, Cs2CO3 (59.9 mg, 0.184 mmol) was added and the reaction was stirred at 60° C. After 90 minutes the reaction was cooled, quenched with NH4Cl, extracted with EtOAc, dried with MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-100% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.48-12.70 (m, 1H) 10.99 (br. s., 1H) 8.27 (m) 7.89 (m) 7.81 (m) 7.56 (dd, J=8.34, 1.52 Hz, 1H) 7.48 (m) 7.06-7.21 (m, 1H) 6.81 (s, 1H) 6.01 (br. s., 1H) 4.48 (t, J=5.24 Hz, 1H) 3.34-3.54 (m, 5H) 2.56-2.72 (m, 1H) 2.46 (s, 3H) 2.01 (br. s., 1H). HRMS calcd. for C22H20F3N5O2 (M+H)+ 444.1647. found 444.1656.

reactant | (±)-tert-butyl 4-(1-(5-cyano-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-((2-hydroxyethyl)amino)ethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.037 mmol, 20 mg | C(#N)C1=CC2=C(NC(=N2)C(C(F)(F)F)(NCCO)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)C=C1 | C27H28F3N5O4
reactant | Cs2CO3 | 0.184 mmol, 59.9 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeOH | 0.368 mL | CO | CH4O
product | (±)-2-(2,2,2-Trifluoro-1-((2-hydroxyethyl)amino)-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | FC(C(C1=C2C=CNC2=C(C=C1OC)C)(NCCO)C1=NC2=C(N1)C=CC(=C2)C#N)(F)F | C22H20F3N5O2
